US06531477B1
Part A: To a stirred solution of 320 mg (1.9 mmol) of 2-cyano-3-ethoxypentenamide in 7 mL of MeOH was added 465 mg (2.2 mmol) of 2,4,6-trichlorophenylhydrazine. The solution was stirred 3 h at reflux, treated with 2 mL of water, and allowed to stir an additional 1 h, cooling to RT. The white solid which precipitated was filtered, washed with 2:1 MeOH-water, and air-dried to afford 520 mg (82%) of 5-amino-3-ethyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide, mp 186-188° C., Mass Spec (CI+): 331.9989 (M)+.

reactant | 2-cyano-3-ethoxypentenamide | 1.9 mmol, 320 mg | C(#N)C(C(=O)N)=C(CC)OCC | C8H12N2O2
reactant | 2,4,6-trichlorophenylhydrazine | 2.2 mmol, 465 mg | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | water | 2 mL | O | H2O
solvent | MeOH | 7 mL | CO | CH4O
product | 5-amino-3-ethyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide | 520 mg, 82% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)CC)C(=O)N | C12H11Cl3N4O
